US07595320B2
27 mg (74 μmol) of tetrabutylammonium iodide and 121 μL (1.11 mmol) of N-methylaniline are successively added to a solution of 200 mg (0.37 mmol) of an approximately 70:30 mixture of tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate and tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate in 6 mL of dimethylformamide under argon. The reaction mixture is stirred at a temperature in the region of 25° C. for 15 days, and then poured onto ice. It is then extracted twice with a 50/50 mixture of ethyl acetate and heptane. The organic extracts are combined, washed with saturated brine, dried over magnesium sulfate and then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is dissolved in 4 mL of methanol and the solution is introduced into a microwave oven tube. The tube is stoppered and the reaction mixture is irradiated at a temperature in the region of 100° C. for 30 minutes. The reaction mixture is then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography on a cartridge of 15 g of silica gel (0.015-0.040 mm), eluting with pure dichloromethane and then with a dichloromethane/methanol/28% aqueous ammonia mixture (12/3/0.5 by volume) at a flow rate of 10 mL/min. The fractions containing the expected product are combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is purified by preparative LC/MS (conditions B). 11 mg of 4-[(methylphenylamino)methyl]-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide are thus obtained in the form of a beige-colored powder melting at 242° C. LC-MS-DAD-ELSD: 511(+)=(M+H)(+).

reactant | N-methylaniline | 1.11 mmol, 121 μL | CNC1=CC=CC=C1 | C7H9N
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C26H26ClN5O4S
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C)C3=CC=C(C=C3)Cl)C=C1 | C26H25Cl2N5O4S
catalyst | tetrabutylammonium iodide | 74 μmol, 27 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-[(methylphenylamino)methyl]-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide | 11 mg | CN(C1=CC=CC=C1)CC1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C28H26N6O2S
